US06576645B1
4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamine
Zinc (10.0 g, 0.154 mol) and tetrahydrofuran (THF) (120 ml) is added to the reaction vessel and cooled to −10° C. To the mixture is added dropwise titan tetrachloride (14.4 g, 0.076 mol) at about −10° C. After the addition is completed the mixture is refluxed for two hours. Then it is cooled to 40° C. and (4-Aminophenyl)phenyl-methanone (5.1 g, 0.0258 mol) and 3-chloropropiophenone (4.36 g, 0.0258 mol) are dissolved in THF (50 ml) and added to the mixture. Refluxing is continued for additional 3.5 hours. The cooled reaction mixture is poured in aqueous potassium carbonate solution (14 g K2CO3+140 ml water) and allowed to stand over night. The mixture is filtered and the precipitate is washed three times with THF. The filtrate is evaporated to dryness. The residue is dissolved in ethyl acetate and washed with water. Yield 9.6 g Z-isomer being the only isomer.

reactant | (4-Aminophenyl)phenyl-methanone | 0.0258 mol, 5.1 g | NC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C13H11NO
reactant | 3-chloropropiophenone | 0.0258 mol, 4.36 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | potassium carbonate | 140 ml, 14 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Zinc | 0.154 mol, 10.0 g | [Zn] | Zn
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenylamine | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(C=C1)N)C1=CC=CC=C1 | C22H20ClN
